Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine
 
Attending: ___.
 
Chief Complaint:
abdominal pain/odynophagia
 
Major Surgical or Invasive Procedure:
EGD with biopsy

 
History of Present Illness:
Pt is a ___ y.o female with h.o obesity s/p gastric bypass, CCY 
and reversal of gastric bypass, HTN, DM, asthma, opiate 
dependence/addiction, depression/anxiety, DVT/PE, who presents 
with epigastric abdominal pain. 
Pt reports several months of progressively worsening odynophagia 
and epigastric abdominal pain after eating. Pt feels it is 
difficult to eat and has been losing weight. 12lbs over last few 
months. Pt reports nausea and occasional vomiting. Last vomiting 
___, no hematemesis, no diarrhea, constipation, melena or 
brbpr. Yesterday, pt ate 1 hard boiled egg, ___ cup popcorn, and 
6oz chicken noodle soup. She reports she has been trying to stay 
hydrated. Pt reports feeling increased weakness and difficulty 
with mobility due to her nutritional status. Pt reports last BM, 
small this am and yesterday normal BM, +flatus. Pt with prior 
h.o candidial esophagitis. Current presentation may be similar 
per pt. Current pain is ___ and "throbbing". She otherwise 
denies travel, sick contacts, new foods. Pt reporting T max 
100.9 at home.
Other 10PT ROS reviewed and otherwise negative negative 
including headache, dizziness, CP, sob, palpitations, cough, 
URI, dysuria, hematuria, joint pain, rash, paresthesias.

IN the ED, pt was given zofran and famotidine. 
 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY ___ at  
___ and complete reversal which was unsuccessful (___)
-multiple prior abdominal surgeries including last surgery 
J-tube attempt ___ which failed and lead to perforated colon. 
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
 
now on methadone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.  
-DVT/PE ___  
-DJD  
-2 SBOs  
-Menopause completed  
Past Surgical History:  
-___- gastric bypass & CCY and subsequent attempted 
complete  
reversal  
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs,  
attempted reverse of the gastric bypass, the most recent in ___ 

.
Chronic pain
opiate addiction
 
Social History:
___
Family History:
Mother with diabetes and HTN. 
 
Physical Exam:
GEN:thin woman, well appearing, NAD
vitals: 
T 97.8 BP 105/64 HR 70 RR 16 sat 100% on RA
HEENT: ncat eomi anicteric MMM
neck: supple
chest: b/l ae no w/c/r
heart: s1s2 rr no m/r/g
abd: +bs, +several well-healed surgical scars, +epigastric 
tenderness to deep palp, no guarding or rebound
ext: no c/c/e 2+pulses
neuro: face symmetric, speech fluent
psych: calm, cooperative
skin: no apparent rash

Discharge exam:
afebrile, normal VS, occasionally has SBP ~90 when resting
HEENT: ncat eomi anicteric MMM
neck: supple
lungs: clear to auscultation
heart: normal S1, S2, no murmurs
abd: +bs, +several well-healed surgical scars, non-tender
ext: no c/c/e 2+pulses
neuro: face symmetric, speech fluent
psych: appropriate
 
Pertinent Results:
ON ADMISSION:

___ 01:00PM   GLUCOSE-82 UREA N-9 CREAT-0.7 SODIUM-135 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-27 ANION GAP-10
___ 01:00PM   estGFR-Using this
___ 01:00PM   ALT(SGPT)-14 AST(SGOT)-22 ALK PHOS-66 TOT 
BILI-0.4
___ 01:00PM   LIPASE-10
___ 01:00PM   ALBUMIN-3.6
___ 01:00PM   WBC-3.6* RBC-3.77* HGB-11.4* HCT-37.1 MCV-98 
MCH-30.2 MCHC-30.7* RDW-18.8*
___ 01:00PM   NEUTS-58.2 ___ MONOS-2.8 EOS-1.9 
BASOS-0.3
___ 01:00PM   PLT COUNT-272
___ 12:00PM URINE  HOURS-RANDOM
___ 12:00PM URINE  UHOLD-HOLD
___ 12:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-6.5 
LEUK-NEG

CTA ABD/PELVIS
1.  No evidence of mesenteric ischemia. Widely patent arterial 
vasculature.
2.  Status post multiple bowel surgeries without any evidence of 
bowel
obstruction at this time.
3.  Stable dilatation of the left biliary system as well as the 
central
pancreatic duct. Prior MRCP from ___ should be referred 
to for better
evaluation the biliary tree and pancreatic duct.
4.  Sigmoid diverticulosis without any evidence of active 
diverticulitis.

EGD:
Erythema, congestion and friability in the whole esophagus 
compatible with esophagitis (biopsy)
Granularity, friability and erythema in the stomach body 
compatible with gastritis (biopsy)
Normal mucosa in the jejunum
Otherwise normal EGD to proximal small bowel 

BX: 
Gastroesophageal mucosal biopsies, two:
1. Esophagus:
Squamous mucosa with acute neutrophilic esophagitis and rare 
yeast forms consistent with ___
species (confirmed with GMS stain).
2. Stomach:
Oxyntic mucosa with chronic inactive gastritis.

UGI series
SINGLE CONTRAST UPPER GI:  With the patient in the standing 
position in right
posterior oblique, AP, and left posterior oblique positions, 
water-soluble
contrast and subsequently thin barium was administered. Contrast 
was
identified passing through the esophagus without evidence of 
holdup. Contrast
passed through the stomach and distally past the anastomotic 
site without
evidence of leak. No evidence of holdup is seen.  Proximal small 
bowel appears
dilated.
 
IMPRESSION:  
Patient is status post gastric bypass. No evidence of leak 
identified. 
Dilated proximal small bowel loops are seen.  A short follow up 
KUB is
recommended to evaluate further.
 
KUB
Single dilated small bowel loop is the jejunojejunostomy 
anastomosis site,
also seen on recent CT study.  THis may be physiological. No 
definitive
evidence of obstruction.

colonoscopy:
Internal hemorrhoids
Polyp in the transverse colon (polypectomy)
Polyp in the descending colon (polypectomy)
Polyp in the descending colon 2 (polypectomy)
Diverticulosis of the sigmoid and ascending colon
Normal mucosa in the terminal ileum
Abnormal submucosal appearing mucosa with central umbillication 
of unclear etiology in the transverse colon. (biopsy)
Otherwise normal colonoscopy to cecum and terminal ileum

DISCHARGE LABS:

polyp- adenoma

WBC  RBC Hgb  Hct MCV MCH  MCHC RDW Plt Ct
4.2 3.35 10.0 32.5 97 30.0 30.9 19.5 232

UreaN Creat Na  K   Cl HCO3
8     0.6   140 4.6 106 28

ALT AST AlkPhos TotBili
10  18     69   0.1

Calcium Phos Mg
8.4     3.8  1.7

HELICOBACTER ANTIGEN DETECTION, STOOL 
  Test                          Result              Reference 
Range/Units
RESULT:                       NOT DETECTED        
 

 
 
 
 
 

 
Brief Hospital Course:
___ w/PMH of gastric bypass, multiple prior abdominal surgeries, 
s/p complete reversal of her gastric bypass, CCY, esophageal 
candidiasis, opiate abuse, HTN, and DVT/PE p/w epigastric 
abdominal pain and nausea.

# Epigastric abdominal pain/nausea: Pt with recent h/o 
esophageal candidiasis s/p treatment. Now with post prandial 
epigastric pain and odynophagia. EGD notable for esophagitis and 
gastritis; biopsies taken and showed persistent ___. She was 
continued on her home PPI and sucralfate with the addition of 
cholestyramine and started on PO fluconazole. She did not 
tolerate cholestyramine. Given ongoing pain, while in house she 
was evaluated by the bariatric surgery team who did not think 
that surgical intervention would improve bile reflux. She was 
also seen by the pain management team who recommended outpatient 
nerve block given concern for nerve entrapment at surgical site 
and continued use of tramadol PRN. She will need outpatient 
follow-up with ___ further evaluation and treatment. 
Fluconazole will finish on ___.

# Leukopenia- Noted on previous admissions as well. Resolved 
without intervention. 

# Malnutrition: due to odynophagia. PO intake improved 
significantly following treatment for esophagitis.

CHRONIC ISSUES

# DVT/PE- Difficulty obtaining a therapeutic INR as an 
outpatient over the past year. Patient was continued on 
therapeutic lovenox alone during her hospitalization and 
coumadin was held at discharge given concerns for patient's 
medication compliance and insight into how to adjust warfarin 
dosages. She has follow-up with ___ further 
consideration of the risks and benefits of continued 
anticoagulation. 

# anxiety/depression: continued home meds (reconciled with 
outpatient psych provider) and weaned clonazepam 0.5/wk per 
their recs.  Quetiapine was halved while inpt due to interaction 
with fluconazole but should be restarted at home dose when 
fluconazole course is completed.

# Medication Reconciliation: Patient has recently filled 
prescriptions at three different pharmacies and reported 
different doses and frequencies for several medications than 
those noted in OMR. Medications discussed with patient's PCP, 
___, and outpatient nurse. Gabapentin was stopped, 
Seroquel was continued at 100mg qAM and 300mg qPM (but decreased 
when fluconazole was started due to interaction), and Klonipin 
was continued at 0.5mg qAM and 2mg qPM (tapered to 1.5 mg after 
1 week per outpt psychiatrist). She was instructed to choose one 
pharmacy to fill all of her prescriptions at to limit confusion 
in the future. She will need close outpatient follow-up with her 
PCP and psychiatrist for further titration of her psychiatric 
medications.

# hx narcotics abuse: pt was continued on home ___.  Pain 
management was discussed with ___ provider who 
preferred not to dc the patient on ultram, however given ongoing 
pain and pain consult recommendations, this was continued. 

OUTSTANDING ISSUE:
-pt to completed 14 day course of fluconazole for esophageal 
candidiasis
-ultram should be tapered to complete discontinuation in ___ 
days
-pt should follow up in pain management clinic
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
2. Acetaminophen 1000 mg PO Q8H:PRN pain 
3. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL BID 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Docusate Sodium 100 mg PO DAILY 
6. Enoxaparin Sodium 70 mg SC Q12H 
7. Omeprazole 20 mg PO BID 
8. Ondansetron 4 mg PO Q8H:PRN nausea 
9. Pantoprazole 40 mg PO Q24H 
10. Sucralfate 1 gm PO QID 
11. ClonazePAM 0.5 mg PO QAM 
12. Doxepin HCl 100 mg PO HS 
13. QUEtiapine Fumarate 100 mg PO QAM 
14. QUEtiapine Fumarate 300 mg PO HS 
15. Multivitamins 1 TAB PO DAILY 
16. Warfarin 22 mg PO DAILY16 
17. ClonazePAM 2 mg PO NOON 
18. Furosemide 40 mg PO BID 
19. BuPROPion (Sustained Release) 200 mg PO QAM 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q8H:PRN pain 
2. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL BID 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Docusate Sodium 100 mg PO DAILY 
5. Doxepin HCl 100 mg PO HS 
6. Enoxaparin Sodium 70 mg SC Q12H 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 40 mg PO BID 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Sucralfate 1 gm PO QID 
11. Cholestyramine 4 gm PO BID 
RX *cholestyramine (with sugar) 4 gram 4 grams by mouth twice a 
day Refills:*0
12. Ondansetron 4 mg PO Q8H:PRN nausea 
13. Fluconazole 400 mg PO Q24H 
RX *fluconazole 200 mg 2 tablet(s) by mouth daily Disp #*8 
Tablet Refills:*0
14. BuPROPion (Sustained Release) 200 mg PO QAM 
15. ClonazePAM 1.5 mg PO QHS 
16. ClonazePAM 0.5 mg PO QAM 
17. QUEtiapine Fumarate 50 mg PO QAM 
18. QUEtiapine Fumarate 150 mg PO HS 
19. TraMADOL (Ultram) 50 mg PO BID:PRN pain 
only take if needed 
20. Bisacodyl 10 mg PO DAILY 
21. Senna 8.6 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Esophagitis, esophageal candidiasis, Gastritis

Secondary: abd pain, history of narcotics abuse on ___, hx 
DVT/PE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain and weight 
loss. You underwent an EGD notable for esophagitis and 
gastritis. Biopsies were taken and showed yeast infection.  You 
were continued on your home medications with the addition of 
cholestyramine and ultram for pain control. You will need to 
follow-up with ___ as an outpatient for ongoing evaluation 
and treatment.

Per your PCP's request, a colonoscopy was performed while you 
were in the hospital given difficulty with completing the prep 
as an outpatient. This went well, there were a few small polyps, 
and you will likely be due for another colonoscopy in ___ years.

You were noted to have a small infection in the labial that was 
treated with ___ baths.

Please see below for your follow up appointments and 
medications.
 
Followup Instructions:
___